US08629137B2
3-{1-[6-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-9-fluoro-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
61 mg (0.23 mmol) 9-fluoro-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one, 70 mg (0.23 mmol) 6-(6-chloropyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one and 0.080 mL (0.46 mmol) DIPEA were combined in 2 mL DMF and stirred for 2 h at RT. Then the reaction mixture was diluted with MeOH, the precipitate formed was suction filtered, washed with MeOH and diethyl ether and dried.

reactant | 9-fluoro-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | 0.23 mmol, 61 mg | FC1=CC=CC2=C1NC(N(CC2)C2CCNCC2)=O | C14H18FN3O
reactant | 6-(6-chloropyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 0.23 mmol, 70 mg | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C14H10ClN3O3
reactant | DIPEA | 0.46 mmol, 0.080 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 3-{1-[6-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-9-fluoro-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | CN1C(OC2=C1C(=CC(=C2)C(=O)C2=CC(=NC=N2)N2CCC(CC2)N2C(NC1=C(CC2)C=CC=C1F)=O)C)=O | C28H27FN6O4
